US06248743B1
To a solution of vanillin (50 g) in N,N-dimethylformamide (600 ml) are added 62.5% sodium hydride (13.9 g) and cyclopentyl bromide (38.8 ml) under ice-cooling, and the mixture is stirred at 90° C. overnight. The mixture is concentrated under reduced pressure to remove the N,N-dimethylformamide, and to the residue is added water. The mixture is extracted with ethyl acetate, and the extract is washed, dried, and concentrated under reduced pressure to remove the solvent. The resulting residue is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=3:1) to give 4-cyclopentyloxy-3-methoxybenzaldehyde (65 g).

reactant | vanillin | 50 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | sodium hydride | 13.9 g | [H-].[Na+]
reactant | cyclopentyl bromide | 38.8 ml | C1(CCCC1)Br | C5H9Br
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 4-cyclopentyloxy-3-methoxybenzaldehyde | 65 g, Yield: 90% | C1(CCCC1)OC1=C(C=C(C=O)C=C1)OC | C13H16O3
